US08476302B2
A solution of 4-(5-(aminomethyl)-1,3,4-thiadiazol-2-yl)phenol (1 g, 3.5 mmol) in methanol (9 mL) containing NaHCO3 (1.2 g, 13.9 mmol) and di-t-butyldicarbonate (Boc2O; 1.5 g, 7.0 mmol) was stirred for 5 h. The resulting mixture was filtered and the filtrate concentrated. The residue was dissolved in CH2Cl2 (48 mL) and treated with 0.5 M NaOCH3 in methanol (8.3 mL). After stirring at room temperature for 1 h, the volatiles were removed under vacuum to yield tert-butyl ((5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl)methyl)carbamate. To a solution of tert-butyl((5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl)methyl)carbamate (1.01 g, 2.89 mmol), dimethylformamide (16 mL) and potassium carbonate (1.36 g, 9.86 mmol) was added 3-fluorobenzylbromide (0.61 mL, 4.93 mmol), and the mixture was stirred at room temperature overnight. After 24 h, the resulting mixture was filtered and the filtrate was concentrated. The residue was purified by chromatography (silica gel, heptane:EtOAc) to yield tert-butyl((5-(4-((3-fluorobenzyl)oxy)phenyl)-1,3,4-thiadiazol-2-yl)methyl)carbamate. 1H NMR (400 MHz, CDCl3) δ 7.87-7.92 (m, 2H), 7.33-7.42 (m, 1H), 7.14-7.23 (m, 2H), 7.01-7.08 (m, 3H), 5.13 (s, 2H), 4.68-4.77 (m, 2H), and 1.48 (s, 9H); MS (ES+) 416 (M+1).

reactant | tert-butyl((5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl)methyl)carbamate | 2.89 mmol, 1.01 g | C(C)(C)(C)OC(NCC=1SC(=NN1)C1=CC=C(C=C1)O)=O | C14H17N3O3S
reactant | potassium carbonate | 9.86 mmol, 1.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluorobenzylbromide | 4.93 mmol, 0.61 mL | FC=1C=C(CBr)C=CC1 | C7H6BrF
solvent | dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
product | tert-butyl((5-(4-((3-fluorobenzyl)oxy)phenyl)-1,3,4-thiadiazol-2-yl)methyl)carbamate | C(C)(C)(C)OC(NCC=1SC(=NN1)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O | C21H22FN3O3S
